US08685969B2
4. 7-(1-Hydroxyethyl)-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
To a cloudy solution of 7-acetyl-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (62 mg, 0.123 mmol) in tetrahydrofuran (5 mL) and methanol (15 mL) at 0° C. was added sodium borohydride (23.25 mg, 0.614 mmol) in one portion. The mixture was stirred at room temperature for 30 min and then the reaction was quenched with ice cold water (15 mL). The resulting mixture was extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (25 mL) and dried over anhydrous MgSO4. The organic solution was concentrated under vacuum, and the residue was purified by reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with dichloromethane (3×35 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (24.8 mg, 0.047 mmol, 38.6% yield) as a white solid. LCMS (M+H)+=507.24. 1H NMR (500 MHz, DMSO-d6) δ: 11.77 (s, 1H), 8.32 (s, 1H), 8.23 (s, 1H), 7.83 (d, J=11.6 Hz, 1H), 7.75 (s, 1H), 7.67 (d, J=6.9 Hz, 1H), 7.60 (d, J=8.3 Hz, 1H), 7.54 (m, 1H), 7.43 (d, J=7.5 Hz, 1H), 7.32 (m, 1H), 7.27-7.23 (m, 2H), 7.08 (dd, J1=12.9 Hz, J2=8.5 Hz, 1H), 5.26 (m, 1H), 4.85 (m, 1H), 4.96 (d, J=16.9 Hz, 1H), 4.86 (d, J=16.9 Hz, 1H), 3.86 (s, 3H), 1.88 (s, 3H), 1.38 (d, J=6.4 Hz, 3H).

reactant | 7-acetyl-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.123 mmol, 62 mg | C(C)(=O)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C30H24N4O4
reactant | sodium borohydride | 0.614 mmol, 23.25 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 15 mL | CO | CH4O
product | 7-(1-Hydroxyethyl)-4-(3-(6-methoxy-1-oxoisoindolin-2-yl)-2-methylphenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.047 mmol, 24.8 mg, 38.6% yield | OC(C)C1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C(C1=CC(=CC=C1C3)OC)=O)C)C(=O)N | C30H26N4O4
